US08748434B2
a) 3-Chloro-5-methanesulfonyl-benzoic acid
To a solution of 3-chloro-5-methanesulfonyl-benzoic acid methyl ester (2.3 g, 9.25 mmol) in tetrahydrofuran (30 mL) and water (15 mL) was added lithium hydroxide monohydrate (1.164 g, 27.75 mmol) at 25° C. and the reaction mixture was stirred for 1 h. The solvent was evaporated, the residue dissolved in water (25 mL), acidified with 2M aqueous hydrochloric acid to pH 3 and extracted three times with ethyl acetate (40 mL each). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate and evaporated to afford the desired compound as a colorless solid (1.8 g, 83%). MS (ESI−): m/z=233.2 ([M−H]−).

reactant | 3-chloro-5-methanesulfonyl-benzoic acid methyl ester | 9.25 mmol, 2.3 g | COC(C1=CC(=CC(=C1)S(=O)(=O)C)Cl)=O | C9H9ClO4S
reactant | lithium hydroxide monohydrate | 27.75 mmol, 1.164 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 3-Chloro-5-methanesulfonyl-benzoic acid | 1.8 g, 83% | ClC=1C=C(C(=O)O)C=C(C1)S(=O)(=O)C | C8H7ClO4S
